### PR TITLE
[Merged by Bors] - feat(RingTheory/PicardGroup): invertible modules over semirings are locally free

### PR DESCRIPTION
**Pull request by alreadydone**
Theorem 10.7 in *Facets of module theory over semirings* (Borger & Jun, https://arxiv.org/abs/2405.18645, Adv Math). Aristotle [discovered](https://aristotle.harmonic.fun/dashboard/requests/3e3dc70f-a9aa-4b84-a6fd-a812851c3bfb) a simpler proof using `Invertible.bijective_of_surjective` available in Mathlib. (The task started at 01:37 AM and Aristotle found the proof at 01:46 AM.)

Also generalizes lemmas and adds a new def about local semirings.

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalRing/Basic.lean [hunk 1]
```diff
@@ -36,6 +36,27 @@ theorem of_nonunits_add [Nontrivial R]
...
+
+theorem nonunits_add {a b : R} (ha : a ∈ nonunits R) (hb : b ∈ nonunits R) : a + b ∈ nonunits R :=
+  fun H => not_or_intro ha hb (isUnit_or_isUnit_of_isUnit_add H)
+
+variable (R) in
+/-- The set of nonunits of a local semiring is closed under addition. -/
+def nonunitsAddSubmonoid : AddSubmonoid R where
+  carrier := nonunits R
+  zero_mem' := by simp
+  add_mem' := nonunits_add
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/Basic.lean:54]: This is a bit strange to me. Aren't the nonunits just the maximal ideal? So why not just work with the maximal ideal?

Comment (alreadydone) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: I'm not sure if it's a (left or right) ideal if R is not commutative ...

Comment (tb65536) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: I see. Then should this def go into LocalRing/MaximalIdeal/Defs, with `maximalIdeal` built on top?

Comment (tb65536) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: Actually, I guess it's a bit strange that `maximalIdeal` is in a separate file in the first place, maybe it should be moved here?

Comment (tb65536) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: It would just be nice to unify these two defs slightly.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: Splitting out definition of maximalIdeal into a single file was done by @riccardobrasca in https://github.com/leanprover-community/mathlib4/pull/14829/changes#diff-304119848950187b350807e5bfb591d4f1413b582a0128dec74690459de052de. I wonder why it is not put into Mathlib.RingTheory.LocalRing.Basic, the only file it imports.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: > It would just be nice to unify these two defs slightly.

Is defining one using the other enough? As is done in [3642e71](https://github.com/leanprover-community/mathlib4/pull/41528/commits/3642e7165cc0fd072c1d8d4da0a7f259df61e70a) ...

BTW, If you look at the last paragraph of https://mathoverflow.net/q/486451/3332, you see that a local semiring (as defined in Mathlib) must have a unique maximal left ideal (consisting of all elements without left inverse) and a unique maximal right ideal (elements without right inverse), whose union is the additive submonoid of nonunits. I don't yet know an example where the left and right ideals are not the same.

Comment (riccardobrasca) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: I think my idea was to create a `MaximalIdeal` folder, mainly for the `Basic` file there (and future files). At the point I seemed reasonable to create a `Defs` file. Anyway I am not opposed to move it.

Comment (tb65536) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: > > It would just be nice to unify these two defs slightly.
> 
> Is defining one using the other enough? As is done in [3642e71](https://github.com/leanprover-community/mathlib4/pull/41528/commits/3642e7165cc0fd072c1d8d4da0a7f259df61e70a) ...

Yeah, that seems reasonable.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: I prefer to move the def and deprecate the module in a separate PR (if we all think it's a good idea), so marking this as resolved.

File: Mathlib/RingTheory/LocalRing/Basic.lean [hunk 2]
```diff
@@ -36,6 +36,27 @@ theorem of_nonunits_add [Nontrivial R]
...
 
+variable [IsLocalRing R]
+
+theorem isUnit_or_isUnit_of_isUnit_add {a b : R} (h : IsUnit (a + b)) : IsUnit a ∨ IsUnit b := by
+  rcases h with ⟨u, hu⟩
+  rw [← Units.inv_mul_eq_one, mul_add] at hu
+  apply Or.imp _ _ (isUnit_or_isUnit_of_add_one hu) <;> exact (u⁻¹.isUnit_units_mul _).mp
+
+theorem nonunits_add {a b : R} (ha : a ∈ nonunits R) (hb : b ∈ nonunits R) : a + b ∈ nonunits R :=
+  fun H => not_or_intro ha hb (isUnit_or_isUnit_of_isUnit_add H)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LocalRing/Basic.lean]:
```suggestion
  fun H ↦ not_or_intro ha hb (isUnit_or_isUnit_of_isUnit_add H)
```

File: Mathlib/RingTheory/LocalRing/Basic.lean [hunk 3]
```diff
@@ -36,6 +36,27 @@ theorem of_nonunits_add [Nontrivial R]
...
+
+variable (R) in
+/-- The nonunits of a local semiring form an additive submonoid. -/
+@[expose] def nonunitsAddSubmonoid : AddSubmonoid R where
+  carrier := nonunits R
+  zero_mem' := by simp
+  add_mem' := nonunits_add
+
+theorem exists_of_isUnit_sum {ι} {s : Finset ι} {f : ι → R}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LocalRing/Basic.lean]:
```suggestion
theorem exists_of_isUnit_sum {ι : Type*} {s : Finset ι} {f : ι → R}
```
Just for readability.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/RingTheory/LocalRing/Basic.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/LocalRing/Basic.lean:54]: > > It would just be nice to unify these two defs slightly.
> 
> Is defining one using the other enough? As is done in [3642e71](https://github.com/leanprover-community/mathlib4/pull/41528/commits/3642e7165cc0fd072c1d8d4da0a7f259df61e70a) ...
> 
> BTW, If you look at the last paragraph of https://mathoverflow.net/q/486451/3332, you see that a local semiring (as defined in Mathlib) must have a unique maximal left ideal (consisting of all elements without left inverse) and a unique maximal right ideal (elements without right inverse), whose union is the additive submonoid of nonunits. I don't yet know an example where the left and right ideals are not the same.

I may have a counterexample here, but let me check.

**Comment by riccardobrasca** [comment]
@alreadydone Just take any monoid `M` with an element `x` that has a left inverse but no right inverse and consider the monoid algebra over `M` and coefficients in `ℕ`: this is local for trivial reasons, as for natural numbers `a+b=0` implies `a=b=0` and `a+b=1` implies `a=1, b=0` or `a=0, b=1`. Now the element corresponding to `x` (in degree `1`) has a left inverse but no right inverse.

**Comment by riccardobrasca** [comment]
Wait, this is exactly essentially already written in mathoverlow! What am I missing?

**Comment by alreadydone** [comment]
> Wait, this is exactly essentially already written in mathoverlow! What am I missing?

Indeed, I think I just forgot the example is a local semiring by mathlib definition, and thought the particular question was still not resolved. Thank you, and I'll update the MO question.

**Comment by riccardobrasca** [comment]
We can even add the instance `IsLocalRing (MonoidAlgebra Nat M)` to mathlib, it holds for any monoid!

**Comment by alreadydone** [comment]
Thanks 🎉 
bors r+
